US04547507
2.33 g of methyl 4-oxo-3-pyridinecarboxylate hydrochloride and 1.1 ml of thiophenol were slowly added at 100° C. with stirring to 35 g of polyphosphoric acid and the mixture was stirred at 100° C. for 4 hours and was then poured into 500 ml of water. The pH of the mixture was adjusted to 8 by addition of sodium bicarbonate and the mixture was extracted with chloroform three times. The organic phase was washed with water, dried over magnesium sulfate and filtered and the filtrate was evaporated to dryness under reduced pressure. The residue was dissolved in a small amount of chloroform and the solution was acidified with a solution of hydrogen chloride in ether. Additional ether was added and the mixture was filtered. The product was crystallized from aqueous methanol and dried over P2O5 to obtain 1.365 g (54% yield) of 1,2,3,4-tetrahydro-10H-(1)-benzothiopyrano[3,2-c]pyridin-10-one hydrochloride melting at 270°-272° C. (decomp.)

reactant | methyl 4-oxo-3-pyridinecarboxylate hydrochloride | 2.33 g | Cl.O=C1C(C=NC=C1)C(=O)OC
reactant | thiophenol | 1.1 ml | C1(=CC=CC=C1)S | C6H6S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 500 ml | O | H2O
product | 1,2,3,4-tetrahydro-10H-(1)-benzothiopyrano[3,2-c]pyridin-10-one hydrochloride | 1.365 g, 54% yield | Cl.C1NCCC2=C1C(C1=C(S2)C=CC=C1)=O | InChI=1S/C12H11NOS.ClH/c14-12-8-3-1-2-4-10(8)15-11-5-6-13-7-9(11)12;/h1-4,13H,5-7H2;1H
